US05210287
the method in which 1,2,4-trichlorobenzene and sodium hydrosulfide are reacted in the presence of copper acetate catalyst in liquid ammonia solvent under increased pressure to yield 2,5-dichlorothiophenol, followed by reaction with monochloroacetic acid to yield 2,5-dichlorophenylthioglycolic acid [Kogyo Kagaku, 70, 1384 (1967)].

reactant | 1,2,4-trichlorobenzene | ClC1=C(C=C(C=C1)Cl)Cl | C6H3Cl3
reactant | sodium hydrosulfide | [SH-].[Na+]
catalyst | copper acetate | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | ammonia | N | H3N
product | 2,5-dichlorothiophenol | ClC1=C(C=C(C=C1)Cl)S | C6H4Cl2S
